US08236826B2
Production of (4-benzylpiperazin-1-yl){4-[methyl(5-nitropyridin-2-yl)amino]phenyl}methanone
To a solution of 4-[methyl-(5-nitropyridin-2-yl)amino]benzoic acid (0.800 g, 2.93 mmol) and 1-benzylpiperazine (0.542 g, 3.08 mmol) in DMF (15 mL) were added triethylamine (1.02 mL, 7.32 mmol) and diethyl cyanophosphonate (0.593 mL, 3.52 mmol), and the resulting solution was stirred for 3 hours. To the resulting reaction solution was added water and extracted with ethyl-acetate. The ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate, evaporated, and the residue was purified by silica gel column chromatography (ethyl acetate), to thereby yield 1.25 g of the title compound.

reactant | 4-[methyl-(5-nitropyridin-2-yl)amino]benzoic acid | 2.93 mmol, 0.800 g | CN(C1=CC=C(C(=O)O)C=C1)C1=NC=C(C=C1)[N+](=O)[O-] | C13H11N3O4
reactant | 1-benzylpiperazine | 3.08 mmol, 0.542 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 7.32 mmol, 1.02 mL | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 3.52 mmol, 0.593 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (4-benzylpiperazin-1-yl){4-[methyl(5-nitropyridin-2-yl)amino]phenyl}methanone | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1=CC=C(C=C1)N(C1=NC=C(C=C1)[N+](=O)[O-])C | C24H25N5O3
